US07687469B2
1-Methyl-2-(4-cyclopentyloxybenzyl)-4-(β-D-glucopyranos-1-yl)-benzene
0.17 mL iodocyclopentane are added to a mixture of 0.38 g 1-methyl-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene and 0.53 g cesium carbonate in 4 mL dimethylformamide. The mixture is stirred at 65° C. for 4 h, before another 0.35 g cesium carbonate and 0.1 mL iodocyclopentane are added. After stirring the mixture for an additional 14 h at 45° C. brine is added and the resulting mixture is extracted with ethyl acetate. The combined organic phases are dried over sodium sulfate, the solvent is removed and the residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0->8:1).

reactant | iodocyclopentane | 0.17 mL | IC1CCCC1 | C5H9I
reactant | 1-methyl-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene | 0.38 g | CC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)O | C20H24O7
reactant | cesium carbonate | 0.53 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cesium carbonate | 0.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodocyclopentane | 0.1 mL | IC1CCCC1 | C5H9I
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 1-Methyl-2-(4-cyclopentyloxybenzyl)-4-(β-D-glucopyranos-1-yl)-benzene | CC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC1CCCC1 | C25H32O7
